US07034042B2
A solution of (R)-3-tert-butoxycarbonylamino-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid benzyl ester (0.488 g, 1.0 mmol) in DCM (8 ml) is treated with trifluoroacetic acid (2 ml). The reaction mixture is stirred at ambient temperature for 1 hour. The solvent is evaporated and the residue taken up in DCM and washed with saturated aqueous NaHCO3. The organic phase is dried over MgSO4 and evaporated to yield (R)-3-amino-4-[4-(4-fluorophenoxy)-piperidin-1-yl]-butyric acid benzyl ester. [MH]+ 387.1

reactant | (R)-3-tert-butoxycarbonylamino-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid benzyl ester | 1.0 mmol, 0.488 g | C(C1=CC=CC=C1)OC(C[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O | C27H35FN2O5
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | (R)-3-amino-4-[4-(4-fluorophenoxy)-piperidin-1-yl]-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)N)=O | C22H27FN2O3
